US04622342
1-(4-Benzyloxyphenyl)propan-2-one (2.28 g) was added to a solution of 2-hydroxy-2-(3-chlorophenyl)ethanamine (1.75 g) in dry toluene (100 ml) and the solution was boiled under reflux for 90 minutes in an apparatus incorporating a water-trap. The solution was cooled and the solvent removed under reduced pressure. The residue, dissolved in methanol (100 ml), was cooled to less than 10° C. and treated portionwise with sodium borohydride (3.0 g) over 30 minutes, with stirring. The mixture was stirred for one hour at room temperature and the solvent removed under reduced pressure. The residue was dissolved in ethyl acetate, washed with water, dried (magnesium sulphate), filtered and evaporated to dryness to give a solid. Trituration of the solid with diethyl ether followed by addition of hexane and filtration gave N-[2-(4-benzyloxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine of analytical purity, mp 95°-99° C., as a 45:55 mixture of diastereoisomers.

reactant | 1-(4-Benzyloxyphenyl)propan-2-one | 2.28 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)=O | C16H16O2
reactant | 2-hydroxy-2-(3-chlorophenyl)ethanamine | 1.75 g | OC(CN)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-benzyloxyphenyl)-1-methylethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(C)NCC(C1=CC(=CC=C1)Cl)O | C24H26ClNO2
